US04596819
To 50 ml of methanol, saturated with hydrogen chloride gas is added 1.77 g of [S-(R*,R*)]-2-[[[1-[[[-2-(1,1-dimethylethoxy)-2-oxoethyl]amino]methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester in 10 ml of methanol. After standing at room temperature for four hours, the solution is kept at 0° overnight. The solvent is then removed under reduced pressure and the residue taken up in ethyl acetate. The ethyl acetate solution is washed two times with saturated sodium bicarbonate solution, once with saturated sodium chloride solution, and then dried over magnesium sulfate. Removal of the solvent under reduced pressure gives 1.14 g of [S-(R*,R*)]-2-[[[1-[[(2-methoxy-2-oxoethyl)amino]methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-[[[1-[[[-2-(1,1-dimethylethoxy)-2-oxoethyl]amino]methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester | CC(C)(OC(CNCC(CC(C)C)NC(=O)C1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)C | C25H39N3O5
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-[[[1-[[(2-methoxy-2-oxoethyl)amino]methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester | COC(CNCC(CC(C)C)NC(=O)C1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C22H33N3O5
